### PR TITLE
[Merged by Bors] - style(Data): fix whitespace

### PR DESCRIPTION
**Pull request by grunweg**
Extracted from #30658. Found by extending the commandStart linter to proof bodies.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Basic.lean [hunk 1]
```diff
@@ -184,7 +184,7 @@ theorem factorial_mul_factorial_dvd_factorial {n k : ℕ} (hk : k ≤ n) : k ! *
   rw [← choose_mul_factorial_mul_factorial hk, Nat.mul_assoc]; exact Nat.dvd_mul_left _ _
 
 theorem factorial_mul_factorial_dvd_factorial_add (i j : ℕ) : i ! * j ! ∣ (i + j)! := by
-  suffices i ! * (i + j - i) ! ∣ (i + j)! by
+  suffices i ! * (i + j - i)! ∣ (i + j)! by
```
Comment (grunweg) [inline Mathlib/Data/Nat/Choose/Basic.lean:187]:
```suggestion
  suffices i ! * (i + j - i)! ∣ (i + j) ! by
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 2]
```diff
@@ -65,19 +65,19 @@ theorem prod_range_succ_factorial : ∀ n : ℕ, ∏ x ∈ range (n + 1), x ! =
     rw [prod_range_succ, prod_range_succ_factorial n, mul_comm, superFactorial]
 
 theorem superFactorial_two_mul : ∀ n : ℕ,
-    sf (2 * n) = (∏ i ∈ range n, (2 * i + 1) !) ^ 2 * 2 ^ n * n !
+    sf (2 * n) = (∏ i ∈ range n, (2 * i + 1)!) ^ 2 * 2 ^ n * n !
```
Comment (grunweg) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean]:
```suggestion
    sf (2 * n) = (∏ i ∈ range n, (2 * i + 1) !) ^ 2 * 2 ^ n * n !
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 3]
```diff
@@ -65,19 +65,19 @@ theorem prod_range_succ_factorial : ∀ n : ℕ, ∏ x ∈ range (n + 1), x ! =
...
   | 0 => rfl
   | (n + 1) => by
     simp only [prod_range_succ, mul_pow, mul_add, mul_one, superFactorial_succ,
       superFactorial_two_mul n, factorial_succ]
     ring
 
 theorem superFactorial_four_mul (n : ℕ) :
-    sf (4 * n) = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n) ! :=
+    sf (4 * n) = ((∏ i ∈ range (2 * n), (2 * i + 1)!) * 2 ^ n) ^ 2 * (2 * n)! :=
```
Comment (grunweg) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean]:
```suggestion
    sf (4 * n) = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n)! :=
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 4]
```diff
@@ -65,19 +65,19 @@ theorem prod_range_succ_factorial : ∀ n : ℕ, ∏ x ∈ range (n + 1), x ! =
...
   calc
-    sf (4 * n) = (∏ i ∈ range (2 * n), (2 * i + 1) !) ^ 2 * 2 ^ (2 * n) * (2 * n) ! := by
+    sf (4 * n) = (∏ i ∈ range (2 * n), (2 * i + 1)!) ^ 2 * 2 ^ (2 * n) * (2 * n)! := by
```
Comment (grunweg) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean]:
```suggestion
    sf (4 * n) = (∏ i ∈ range (2 * n), (2 * i + 1) !) ^ 2 * 2 ^ (2 * n) * (2 * n)! := by
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 5]
```diff
@@ -65,19 +65,19 @@ theorem prod_range_succ_factorial : ∀ n : ℕ, ∏ x ∈ range (n + 1), x ! =
...
       rw [← superFactorial_two_mul, ← mul_assoc, Nat.mul_two]
-    _ = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n) ! := by
+    _ = ((∏ i ∈ range (2 * n), (2 * i + 1)!) * 2 ^ n) ^ 2 * (2 * n)! := by
```
Comment (grunweg) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean]:
```suggestion
    _ = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n)! := by
```

File: Mathlib/Data/Nat/Find.lean [hunk 6]
```diff
@@ -173,7 +173,7 @@ lemma findGreatest_succ (n : ℕ) :
   | n + 1, h => by simp [Nat.findGreatest, h]
 
 @[simp]
-lemma findGreatest_of_not (h : ¬ P (n + 1)) : findGreatest P (n + 1) = findGreatest P n := by
+lemma findGreatest_of_not (h : ¬P (n + 1)) : findGreatest P (n + 1) = findGreatest P n := by
```
Comment (grunweg) [inline Mathlib/Data/Nat/Find.lean]:
```suggestion
lemma findGreatest_of_not (h : ¬ P (n + 1)) : findGreatest P (n + 1) = findGreatest P n := by
```

File: Mathlib/Data/Nat/Init.lean [hunk 7]
```diff
@@ -380,7 +380,7 @@ theorem diag_induction (P : ℕ → ℕ → Prop) (ha : ∀ a, P (a + 1) (a + 1)
 
 /-! ### `mod`, `dvd` -/
 
-lemma not_pos_pow_dvd {a n : ℕ} (ha : 1 < a) (hn : 1 < n) : ¬ a ^ n ∣ a :=
+lemma not_pos_pow_dvd {a n : ℕ} (ha : 1 < a) (hn : 1 < n) : ¬a ^ n ∣ a :=
```
Comment (grunweg) [inline Mathlib/Data/Nat/Init.lean]:
```suggestion
lemma not_pos_pow_dvd {a n : ℕ} (ha : 1 < a) (hn : 1 < n) : ¬ a ^ n ∣ a :=
```

File: Mathlib/Data/Nat/Sqrt.lean [hunk 8]
```diff
@@ -92,7 +92,7 @@ private lemma sqrt_isSqrt (n : ℕ) : IsSqrt n (sqrt n) := by
   | 0 => simp [IsSqrt, sqrt]
   | 1 => simp [IsSqrt, sqrt]
   | n + 2 =>
-    have h : ¬ (n + 2) ≤ 1 := by simp
+    have h : ¬(n + 2) ≤ 1 := by simp
```
Comment (grunweg) [inline Mathlib/Data/Nat/Sqrt.lean]:
```suggestion
    have h : ¬ (n + 2) ≤ 1 := by simp
```

File: Mathlib/Data/Prod/Basic.lean [hunk 9]
```diff
@@ -158,6 +158,7 @@ instance {r : α → α → Prop} {s : β → β → Prop} [IsRefl β s] : IsRef
 instance isIrrefl [IsIrrefl α r] [IsIrrefl β s] : IsIrrefl (α × β) (Prod.Lex r s) :=
   ⟨by rintro ⟨i, a⟩ (⟨_, _, h⟩ | ⟨_, h⟩) <;> exact irrefl _ h⟩
 
+set_option linter.style.commandStart false in
```
Comment (grunweg) [inline Mathlib/Data/Prod/Basic.lean]: Let's land these changes separately:
```suggestion
```

File: Mathlib/Data/Stream/Init.lean [hunk 10]
```diff
@@ -12,6 +12,8 @@ import Mathlib.Tactic.Common
 # Streams a.k.a. infinite lists a.k.a. infinite sequences
 -/
 
+set_option linter.style.commandStart false -- TEMPORARY, silence some false positives
+
```
Comment (grunweg) [inline Mathlib/Data/Stream/Init.lean]: Ditto
```suggestion
```

**Review by grunweg — COMMENTED** [review]
Let's revert some changes that might be more controversial, or best split out.

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 11]
```diff
@@ -73,11 +73,11 @@ theorem superFactorial_two_mul : ∀ n : ℕ,
     ring
 
 theorem superFactorial_four_mul (n : ℕ) :
-    sf (4 * n) = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n) ! :=
+    sf (4 * n) = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n)! :=
```
Comment (grunweg) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean]:
```suggestion
    sf (4 * n) = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n) ! :=
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 12]
```diff
@@ -73,11 +73,11 @@ theorem superFactorial_two_mul : ∀ n : ℕ,
...
   calc
-    sf (4 * n) = (∏ i ∈ range (2 * n), (2 * i + 1) !) ^ 2 * 2 ^ (2 * n) * (2 * n) ! := by
+    sf (4 * n) = (∏ i ∈ range (2 * n), (2 * i + 1) !) ^ 2 * 2 ^ (2 * n) * (2 * n)! := by
```
Comment (grunweg) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean]:
```suggestion
    sf (4 * n) = (∏ i ∈ range (2 * n), (2 * i + 1) !) ^ 2 * 2 ^ (2 * n) * (2 * n) ! := by
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 13]
```diff
@@ -73,11 +73,11 @@ theorem superFactorial_two_mul : ∀ n : ℕ,
...
       rw [← superFactorial_two_mul, ← mul_assoc, Nat.mul_two]
-    _ = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n) ! := by
+    _ = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n)! := by
```
Comment (grunweg) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean]:
```suggestion
    _ = ((∏ i ∈ range (2 * n), (2 * i + 1) !) * 2 ^ n) ^ 2 * (2 * n) ! := by
```

File: Mathlib/Data/Finmap.lean [hunk 14]
```diff
@@ -72,7 +72,7 @@ structure Finmap (β : α → Type v) : Type max u v where
 def AList.toFinmap (s : AList β) : Finmap β :=
   ⟨s.entries, s.nodupKeys⟩
 
-local notation:arg "⟦" a "⟧" => AList.toFinmap a
+local notation:arg (priority := high) "⟦" a "⟧" => AList.toFinmap a
```
Comment (grunweg) [inline Mathlib/Data/Finmap.lean]: For posterity, can you say why this is needed?

File: Mathlib/Data/List/Basic.lean [hunk 15]
```diff
@@ -843,7 +843,7 @@ variable {op : α → α → α} [ha : Std.Associative op]
 local notation a " ⋆ " b => op a b
 
 /-- Notation for `foldl op a l`. -/
-local notation l " <*> " a => foldl op a l
+local notation (priority := high) l " <*> " a => foldl op a l
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean]: For posterity, can you say why this is needed?

File: Mathlib/Data/Int/Bitwise.lean [hunk 16]
```diff
@@ -23,12 +23,12 @@ namespace Int
 /-- `div2 n = n/2` -/
 def div2 : ℤ → ℤ
   | (n : ℕ) => n.div2
-  | -[n +1] => negSucc n.div2
+  | -[n+1] => negSucc n.div2
```
Comment (grunweg) [inline Mathlib/Data/Int/Bitwise.lean:26]: I'm a bit surprised by this change: in the other files, we have been moving in the opposite direction. (Also below.)

File: Mathlib/Data/Set/Defs.lean [hunk 17]
```diff
@@ -239,7 +239,7 @@ instance : SDiff (Set α) := ⟨Set.diff⟩
 /-- `𝒫 s` is the set of all subsets of `s`. -/
 def powerset (s : Set α) : Set (Set α) := {t | t ⊆ s}
 
-@[inherit_doc] prefix:100 "𝒫" => powerset
+@[inherit_doc] prefix:100 "𝒫 " => powerset
```
Comment (grunweg) [inline Mathlib/Data/Set/Defs.lean:242]: Mathlib is split upon the correct use of this notation: I see two occurrences with a space and four without. That said, I don't mind this change, but perhaps it could/should be a separate PR?

**Review by grunweg — COMMENTED** [review]
Thanks for making these changes! I have only minor comments left. @adomani Would you like to make the final steps here?
bors d=adomani

File: Mathlib/Data/Int/Bitwise.lean (hunk 16 above)
Comment (adomani) [reply Mathlib/Data/Int/Bitwise.lean:26]: The `+1` here is just hard-coded notation in core, it has no space and expects no space between the `n` and the `+1`.  I consider this an exception and since it is in core, I'd rather follow it than fight against it.

File: Mathlib/Data/List/Basic.lean (hunk 15 above)
Comment (adomani) [reply Mathlib/Data/List/Basic.lean]: This notation is ambiguous, since it clashes with the `seq` operator.  This means that, when parsing, Lean creates a `choice` node in the syntax to take into account both possibilities, that will/might be resolved by elaboration.

In this case, elaboration succeeds, so there are no errors, but the `choice` node confuses the `commandStart` linter.

Setting the priority of the notation to `high` means that during parsing Lean will not generate a `choice` node, but will commit to this `foldl` notation, instead of the core one.

File: Mathlib/Data/Finmap.lean (hunk 14 above)
Comment (adomani) [reply Mathlib/Data/Finmap.lean]: I think that this was another one of these `choice` disambiguations.

File: Mathlib/Data/List/Basic.lean (hunk 15 above)
Comment (grunweg) [reply Mathlib/Data/List/Basic.lean]: Aha, I suspect something in this direction. Do you mind adding a comment about this/do you think that would be useful?

File: Mathlib/Data/Finmap.lean (hunk 14 above)
Comment (grunweg) [reply Mathlib/Data/Finmap.lean]: Thanks; what do you think about a comment here?

Comment (adomani) [reply Mathlib/Data/Finmap.lean]: Adding a comment.

Here is a snippet to test the difference.
```lean
open Lean in
run_cmd
  let stx ← `(⟦_⟧)
  if let some choice := stx.raw.find? (·.isOfKind `choice) then
    logWarning "Choice!"
    dbg_trace choice
  else
    logInfo "No choice!"
```

File: Mathlib/Data/List/Basic.lean (hunk 15 above)
Comment (adomani) [reply Mathlib/Data/List/Basic.lean]: Comment added.

File: Mathlib/Data/Set/Defs.lean (hunk 17 above)
Comment (adomani) [reply Mathlib/Data/Set/Defs.lean:242]: I'll leave this as is, since I think that it is likelier that the space was expected and not placed, rather than explicitly omitted.  Because this is not so used, I also don't think that it matters much either way.

**Review by adomani — COMMENTED** [review]
Michael, thanks for the comments!  I should have addressed them all.  I am unsure of whether this will built or not, but, for me, it is ready to go!

**Comment by grunweg** [comment]
Since CI is green, I'd consider this good to go. I'll let you press the button :-)

**Comment by adomani** [comment]
Great!  Thanks for the help with this!

bors merge

**Comment by grunweg** [comment]
You're very welcome!
